US08735387B2
(b) (2-{4-[5-(4-Chloro-benzyl)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenoxy}-acetylamino)-acetic acid tert-butyl ester
200 mg of {4-[5-(4-chloro-benzyl)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenoxy}-acetyl chloride were dissolved in 2 ml of dichloromethane, and the solution was slowly added to a solution of 67 mg of glycine tert-butyl ester hydrochloride and 121 mg of triethylamine in 3 ml of dichloromethane. The mixture was stirred for 18 h at room temperature. Then the solvent was distilled off in vacuo and the product was isolated via preparative HPLC (method HPLC2) to yield 53 mg of the title compound.

reactant | {4-[5-(4-chloro-benzyl)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenoxy}-acetyl chloride | 200 mg | ClC1=CC=C(CC=2N=C(C3=C(N2)OC(=N3)C3=CC(=C(OCC(=O)Cl)C(=C3)C)C)OCCC)C=C1 | C25H23Cl2N3O4
reactant | glycine tert-butyl ester hydrochloride | 67 mg | Cl.C(C)(C)(C)OC(CN)=O
reactant | triethylamine | 121 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (2-{4-[5-(4-Chloro-benzyl)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenoxy}-acetylamino)-acetic acid tert-butyl ester | 53 mg | C(C)(C)(C)OC(CNC(COC1=C(C=C(C=C1C)C=1OC=2N=C(N=C(C2N1)OCCC)CC1=CC=C(C=C1)Cl)C)=O)=O | C31H35ClN4O6
